US08426414B2
Part C. {(1R,2R)-1-[(4-Bromo-phenylamino)-methyl]-2-methoxy-propyl}-carbamic acid tert-butyl ester
To a solution of ((1S,2R)-1-formyl-2-methoxy-propyl)-carbamic acid t-butyl ester (1.92 g, 8.8 mmol) and 4-bromoaniline (1.51 g, 8.8 mmol) in dichloroethane (50 mL) was added sodium triacetoxyborohydride (3.73 g, 17.6 mmol) portionwise. After the addition, the resulting mixture was stirred at rt for over night. The reaction mixture was quenched with saturated NaHCO3, and extracted with DCM (4×40 mL). The combined DCM was dried (Na2SO4) and concentrated. The residue was subjected to ISCO (120 g column, 0-40% EtOAc in hexane over 100 min.) to give the titled compound (610 mg). MS (MH+ 373 and 375).

reactant | ((1S,2R)-1-formyl-2-methoxy-propyl)-carbamic acid t-butyl ester | 8.8 mmol, 1.92 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OC)C=O)=O | C10H19NO4
reactant | 4-bromoaniline | 8.8 mmol, 1.51 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium triacetoxyborohydride | 17.6 mmol, 3.73 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | {(1R,2R)-1-[(4-Bromo-phenylamino)-methyl]-2-methoxy-propyl}-carbamic acid tert-butyl ester | 610 mg | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OC)CNC1=CC=C(C=C1)Br)=O | C16H25BrN2O3
